US04124356
(C2H5O)2P(O)N3
Following the procedure of Shioiri, Nimomiya, and Yamada, J. Amer. Chem. Soc., 94, 6203 (1972), 5.13 g (0.03 mole) of diethylphosphorochloridate and 1.95 g (0.03 mole) of sodium azide were added to 50 ml dry acetonitrile purified by distillation from calcium hydride under a nitrogen atmosphere. The slurry was stirred at reflux for 1 hour, cooled and filtered by gravity to remove the solid precipitate. The acetonitrile solvent was distilled under vacuum. The sample was isolated by vacuum distillation.

reactant | diethylphosphorochloridate | 0.03 mole, 5.13 g | C(C)OP(OCC)(=O)Cl | C4H10ClO3P
reactant | sodium azide | 0.03 mole, 1.95 g | [N-]=[N+]=[N-].[Na+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | (C2H5O)2P(O)N3 | P(=O)(OCC)(OCC)N=[N+]=[N-] | C4H10N3O3P
